US07465825B2
A solution of 3-(4-bromo-benzyl)-2-butyl-benzofuran (14.03 g, 41.5 mmol), bis(pinacolato)diborane (11.60 g, 1.1 equiv., 45.7 mmol), potassium acetate (12.2 g, 3.0 equiv., 125 mmol) in DMSO (100 mL, 0.4 M) was treated with PdCl2(dppf).CH2Cl2. (4.15 g, 0.1 equiv., 4.15 mmol) and heated to 80° C. After compete by TLC, the solution was coled to room temperature, diluted with water (150 mL) and filtered through celite (washed with ether, 500 mL). After separation, the aqueous layer was extracted with ether (2×150 mL). The combined organic layers were washed with water, sat'd aq NaCl, dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification by flash column chromatography (2-5% ethyl acetate in heptane) afforded 2-butyl-3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-benzofuran as a pale yellow oil (11.2 g, 69%).

reactant | 3-(4-bromo-benzyl)-2-butyl-benzofuran | 41.5 mmol, 14.03 g | BrC1=CC=C(CC2=C(OC3=C2C=CC=C3)CCCC)C=C1 | C19H19BrO
reactant | bis(pinacolato)diborane | 45.7 mmol, 11.60 g, 1.1 equiv. | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 125 mmol, 12.2 g, 3.0 equiv. | C(C)(=O)[O-].[K+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMSO | 0.4 M, 100 mL | CS(=O)C | C2H6OS
solvent | water | 150 mL | O | H2O
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-butyl-3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-benzofuran | 11.2 g, 69% | C(CCC)C=1OC2=C(C1CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=CC=C2 | C25H31BO3
